US04061653
3-Amino-1-(4-methylbenzyl)-pyrazol-5-one
17.5 g of β-amino-β-ethoxyacrylic acid ethyl ester and 13.6 g of 4-methylbenzylhydrazine are introduced into 75 ml of pyridine. The mixture is stirred for 8 hours at room temperature and the pyridine is driven off under reduced pressure. The reisidue is treated with a solution of 4.6 g of Na in 100 ml of ethanol and the mixture is warmed to 60° for 1 hour. The alcohol is driven off and the residue is taken up in 100 ml of water. The aqueous phase is extracted with ether, clarified with charcoal and acidified. A yellow-colored precipitate is obtained, which melts at 149° after recrystallisation from alcohol. The yield is 7.3 g of the compound identified above, corresponding to 36% of theory.

reactant | β-amino-β-ethoxyacrylic acid ethyl ester | 17.5 g | C(C)OC(C=C(OCC)N)=O | C7H13NO3
reactant | 4-methylbenzylhydrazine | 13.6 g | CC1=CC=C(CNN)C=C1 | C8H12N2
reactant | pyridine | 75 ml | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 100 ml | O | H2O
product | 3-Amino-1-(4-methylbenzyl)-pyrazol-5-one | NC=1NN(C(C1)=O)CC1=CC=C(C=C1)C | C11H13N3O
